US07825128B2
28) (5-bromo-2-chloro-pyrimidine-4-yl)-(tetrahydro-pyran-4-yl)-amine
In the reaction of 5-bromo-2,4-dichloropyrimidine (300 mg, 1.32 mmol) with tetrahydropyran-4-ylamine (144 mg, 1.42 mmol) according to procedure 2, the desired product is obtained in 83% yield (320 mg) after chromatographic purification (silica gel, ethyl acetate/hexane with ethyl acetate: 0-100%).

reactant | 5-bromo-2,4-dichloropyrimidine | 1.32 mmol, 300 mg | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tetrahydropyran-4-ylamine | 1.42 mmol, 144 mg | O1CCC(CC1)N | C5H11NO
product | (5-bromo-2-chloro-pyrimidine-4-yl)-(tetrahydro-pyran-4-yl)-amine | 83% yield | BrC=1C(=NC(=NC1)Cl)NC1CCOCC1 | C9H11BrClN3O
